2149-03-27 12:38:00 Physician Resident Progress Note
Chief Complaint: AMS, hypotension, fever
   24 Hour Events:
 MULTI LUMEN - START [**2149-3-27**] 01:02 AM
   - Received Vanc, Zosyn to cover UTI and pneumonia
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-27**] 02:00 AM
   Vancomycin - [**2149-3-27**] 09:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2149-3-27**] 01:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Flowsheet Data as of  [**2149-3-27**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 90 (89 - 129) bpm
   BP: 111/60(72) {99/52(65) - 155/82(95)} mmHg
   RR: 31 (26 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             719 mL
   PO:
             TF:
   IVF:
   599 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   ABG: 7.37/41/60/23/-1
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   12.0 g/dL
   163 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.0 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   35.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
   WBC
   7.5
   Hct
   35.3
   Plt
   146
   Cr
   1.3
   TropT
   0.03
   TCO2
   25
   Glucose
   163
   Other labs: PT / PTT / INR:17.1/58.1/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P:  66 yo F with MR, bipolar disorder who presents with altered
   mental status, fever, and hypotension.
   .
   1.  Hypotension:  Remains off levophed,  lactate remains normal.  Given
   high fever and now GNRs in bcxs from admission, concern for septic
   shock.  Possible sources include UTI (positive U/A), UCx pending.  Less
   likely to be pneumonia given no clear infiltrate on CXR yesterday and
   today.  Less likely to be meningitis given lack of HA, neck stiffness,
   photophobia.  Currently appears euvolemic after fluid resuscitation by
   ED; good UOP overnight.  Does not appear to be cardiogenic but will
   repeat ECHO.
   - f/u urine cultures, blood cultures
   - sputum culture if can produce
   - check legionella
   - IVF boluses prn with caution given dCHF
   - hold lasix for now
   - vanc and zosyn for UTI, ?[**Last Name (LF) 8664**], [**First Name3 (LF) 178**] tailor abx to culture data
   .
   2.  Acute mental status changes:  Unclear baseline given MR, bipolar.
   Pt alert and oriented x3 and to president.  Able to relay medications.
   No recent changes to medications.  ABG in ED did not show hypercapnia
   though with sig. history for this.
   - cont. cogentin, haldol per patient insistence
   - hold seroquel, topmax for now
   - will need family to assess mental status
   - if mental status changes worsen, will re-gas and try bipap
   .
   3.  Tachypnea:  Patient extremely wheezy.  Known restrictive lung
   disease.  BNP only 500, less likely to be cardiogenic wheeze.
   - nebulizers q4 standing, q2 prn
   - cont. Advair
   - avoid steroids given h/o steroid-induced psychosis
   - CPAP for OSA, home settings of (CPAP 19cm/4L)
   - consider CTA if no improvement, hold off while in ARF
   .
   4.  Sinus Tachycardia:  Improved after IVFs.
   - IVFs prn
   - consider CTA if no improvement, hold off while in ARF
   .
   5.  Fall:  Difficult to obtain history.  DDx inc. cardiac, arrhythmia,
   worsening of AS, med effect.
   - monitor on tele
   - rule out CEs, ASA
   - repeat ECHO
   - hold seroquel, topamax
   .
   6.  ARF:  Baseline Cr of 0.9.
   - hold Lasix
   - IVFs prn
   - f/u urine lytes, sed, eos
   - avoid nephrotoxins, renally dose meds
   .
   7.  Hypertension:  ?hypotensive in ED.
   - hold home Lasix
   .
   8.  Diastolic CHF, mild aortic valve stenosis:  Currently euvolemic.
   - monitor fluid status, I&Os, O2 sats given fluid resuscitation in the
   ED
   .
   9.  Bipolar disorder
   - cont. lithium, haldol, congentin
   - hold seroquel, topmax for now given ?mental status changes
   ICU Care
   Nutrition:
   Comments: Diabetic/Cardiac diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2149-3-27**] 01:02 AM
   20 Gauge - [**2149-3-27**] 01:02 AM
   Comments: Will need to d/c femoral line prior to transfer to floor.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2149-03-28 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Multilumen catheter was discontinued
   - Patient was called-ou to floor, but did not receive bed assignment
   - Called in the AM that patient had gram neg rods in her blood culture
   from ED, later had urine culture positive for E. Coli
   Patient reports feeling much better; however, ongoing wheezing. Was on
   CPAP overnight and tolerated it well.
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2149-3-27**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-28**] 04:00 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-28**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100.1
   HR: 90 (82 - 97) bpm
   BP: 122/63(76) {98/52(63) - 147/89(101)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,395 mL
                                                                    255 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    915 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,307 mL
                                                                    420 mL
   Urine:
                                                                  1,307 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     88 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 89%
   ABG: ///25/
   Physical Examination
   GEN:
   HEENT:
   NECK:
   PULM:
   CARD:
   ABD:
   EXT:
   NEURO:
   Labs / Radiology
   142 K/uL
   10.6 g/dL
   213 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.6 mEq/L
   17 mg/dL
   100 mEq/L
   131 mEq/L
   32.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
   WBC
   7.5
   7.3
   Hct
   35.3
   32.1
   Plt
   146
   142
   Cr
   1.3
   1.2
   TropT
   0.03
   TCO2
   25
   Glucose
   163
   213
   Other labs: PT / PTT / INR:16.5/26.2/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.3 mg/dL, Mg++:3.0
   mg/dL, PO4:1.9 mg/dL
   MICRO:
   [**2149-3-26**] Blood cultures x 2: Gram negative rods
   [**2149-3-26**] Urine culture: E Coli
   [**2149-3-27**] Urinary legionella antigen negative
   Assessment and Plan
   A/P:  66 yo F with MR, bipolar disorder who presents with altered
   mental status, fever, and hypotension.
   # Fevers:
   Hypotension resolved at this time. Remains off levophed. Given high
   fever and now GNRs in bcxs from admission, along with E coli in urine
   culture, fevers and hypotension like due to sepsis of urinary origin.
   Legionella urinary antigen negative.
   - Continue Vanc and Zosyn for now until sensitivities of blood cultures
   are available
   - Follow-up speciation and sensitivities of urine and blood cultures
   - Surveillance blood cultures today
   # Acute mental status changes:
   Patient alert and per family visting yesterday is at her baseline.
   - Consider restarting seroquel
   # Tachypnea:
   Patient extremely wheezy. Known restrictive lung disease.  BNP only
   500, less likely to be cardiogenic wheeze, though no reason to continue
   to hold home furosemide.
   - Nebulizers q4 standing, q2 prn
   - Cont. Advair
   - Avoid steroids given h/o steroid-induced psychosis
   - CPAP for OSA, home settings of (CPAP 19cm/4L)
   #  Sinus Tachycardia:
   Improved after IVF, though still persists. Likely exacerbated by
   ongoing fevers.
   # Fall:
   Difficult to obtain history.  DDx inc. cardiac, arrhythmia, worsening
   of AS, med effect. Telemetry has not revealed arrhythmia. Two sets of
   cardiac enzymes were negative. Had ECHO yesterday revealing no acute
   change from prior, showing only mild AS.
   - Can consider restarting seroquel today
   #  [**Last Name (un) **]:
   Baseline Cr of 0.9, is at 1.2 this AM. Furosemide had been held, though
   likely okay to restart at this time to assist in improvement of
   respiratory status.
   - Check evening lytes
   - Follow-up urine lytes
   - Avoid nephrotoxins, renally dose meds
   #  h/o Hypertension:
   ?hypotensive in ED.  Is now normotensive off of home meds.
   - Restart furosemide today
   # Diastolic CHF, mild aortic valve stenosis:  Currently euvolemic.
   - monitor fluid status, I&Os, O2 sats given fluid resuscitation in the
   ED
   # Bipolar disorder:
   - cont. lithium, haldol, congentin
   - hold seroquel, topmax for now given ?mental status changes
   ICU Care
   Nutrition: Regular, cardiac, diabetic
   Glycemic Control:  Insulin standing and sliding scale
   Lines:
   20 Gauge - [**2149-3-27**] 01:02 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: No prophylaxis indicated
   Communication:  Comments:
   Code status: FULL
   Disposition: Call-out to floor
   ------ Protected Section ------
   Unintentionally left PE out of note:
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa moist
   NECK: Left midline scar, supple, no LAD
   PULM: Scattered inspiratory wheezes and pronounced expiratory wheezing
   CARD: RR, nl S1, nl S2, nl M/R/G
   ABD: Obese, BS+, soft, NT, ND
   EXT: Trace bilat LE edema
   NEURO: Oriented x 3
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3382**], MD
   on:[**2149-3-28**] 11:08 ------

2149-03-29 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient went briefly to floor but remained tachypnic and ABG showed
   7.28/61/55. The patient was returned to the ICU and BIPAP started, PSV
   8, PEEP 5. Next ABG: 7.24/67/90. CPAP changed to 10/5. Next ABG was
   7.22/68/97.
 NON-INVASIVE VENTILATION - START [**2149-3-29**] 03:01 AM
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2149-3-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-28**] 09:08 AM
   Ciprofloxacin - [**2149-3-29**] 06:27 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-3-28**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-29**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 95 (80 - 102) bpm
   BP: 103/53(64) {102/53(64) - 134/82(92)} mmHg
   RR: 32 (23 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,311 mL
                                                                    208 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    711 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                    750 mL
   Urine:
                                                                  2,505 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,195 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 306 (306 - 348) mL
   PS : 10 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.22/68/96.[**Numeric Identifier 244**]/25/-1
   Ve: 9.4 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General: Tachypneic, less responsive to questions than previously,
   audible wheezing, moderate respiratory distress
   HEENT: PERRL, EOMI, oropharynx clear, MM moist
   NECK: Obese neck, no JVD noted
   LUNGS: Wheezes and scattered rhonchi at bilateral lung fields, no rales
   appreciated, no dullness to percussion
   HEART: distant heart sounds, RRR, S1/S2, no m/r/g noted
   ABD: obese, soft, non-tender, non-distended, +BS
   EXT: No BLE edema, 2+ DP pulse
   NEURO: Nonfocal, alert and oriented x3, unable to speak in full
   sentences.
   Labs / Radiology
   175 K/uL
   11.5 g/dL
   220 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   104 mEq/L
   138 mEq/L
   35.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
                             [**2149-3-29**]  04:11 AM
                             [**2149-3-29**]  04:43 AM
                             [**2149-3-29**]  05:47 AM
   WBC
   7.5
   7.3
   8.9
   Hct
   35.3
   32.1
   35.6
   Plt
   146
   142
   175
   Cr
   1.3
   1.2
   1.2
   TropT
   0.03
   TCO2
   25
   30
   29
   Glucose
   163
   213
   220
   Other labs: PT / PTT / INR:16.5/28.6/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.6
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 8692**] is a 66 year old female with mental retardation, asthma,
   obstructive sleep apnea on home CPAP, diastolic CHF, and bipolar
   disorder initially admitted with urosepsis now transferred back to the
   ICU for worsening respiratory distress and
   .
   Respiratory Distress: Most likely multifactorial.  Patient with known
   obstructive sleep apnea, asthma, obesity hypoventilation syndrome and
   restrictive lung disease as well as diastolic heart failure.  CXR now
   with worsening interstial edema and ABG with new hypercarbia.  Is being
   transferred back to the ICU for non-invasive ventilation with BIPAP.
   Differential diagnosis includes respiratory infection, aspiration
   pneumonitis or non-cardiogenic pulmonary edema from systemic
   inflammation.
   - transfer to ICU for BIPAP
   - continue standing albuterol Q4H and Q2H:PRN
   - continue standing ipratropium
   - if no improvement with bipap will start pulse dose steroids and
   consider antibiotics
   - continue ciprofloxacin for UTI
   - continue lasix with I/O goal 1 to 2 liters negative daily
   .
   Urosepsis:  Grew e. coli sensitive to ciprofloxacin from both the blood
   and the urine.  Has been hemodynamically stable for the past 48 hours.
   - continue ciprofloxacin
   .
   Altered Mental Status:  Resolved.  Likely altered in the setting of
   infection.
   - continue home psychiatric medications including cogentin and haldol
   - continue to hold seroquel
   - monitor closely for worsening in the setting of worsening hypercarbia
   .
   Acute Renal Failure:  Creatinine now down to 1.2 (baseline 0.9).
   - monitor creatinine with diuresis
   - avoid nephrotoxins, renally dose meds
   .
   Hypertension:  Blood pressures stable.
   - continue lasix for diuresis
   .
   Diastolic CHF, mild aortic valve stenosis:  Currently appears volume
   overloaded in CXR.
   - I/O goal 1-2 liters negative
   .
   Bipolar disorder: Stable.
   - cont. lithium, haldol, congentin
   - hold seroquel for now given recent mental status changes
   .
   FEN: NPO to allow for non-invasive ventilation, monitor electrolytes,
   no IVF
   .
   Prophylaxis: SC heparin
   .
   Access: peripherals
   .
   Code: Full
   .
   Communication:  HCP [**Name (NI) 8651**] [**Name (NI) 8652**] [**Name (NI) 8653**] [**Telephone/Fax (1) 8654**].
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-29**] 04:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-03-29 09:41:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) 8699**]
s note today, including assessment and plan.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2149-3-29**] 03:01 AM
 CALLED OUT
   returned to ICU after brief stay on floor
   on CPAP overnight
   diuresed, given nebs
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2149-3-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-28**] 09:08 AM
   Ciprofloxacin - [**2149-3-29**] 06:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2149-3-29**] 08:00 AM
   Furosemide (Lasix) - [**2149-3-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-29**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.5
C (95.9
   HR: 93 (80 - 102) bpm
   BP: 112/67(77) {102/53(64) - 134/75(87)} mmHg
   RR: 25 (23 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,311 mL
                                                                    230 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    711 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                  1,130 mL
   Urine:
                                                                  2,505 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,195 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   Ventilator mode: BIPAP
   Vt (Spontaneous): 306 (306 - 348) mL
   PS : 10 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 92%
   ABG: 7.22/68/96.[**Numeric Identifier 244**]/25/-1
   Ve: 9.4 L/min
   Physical Examination
   Awake, alert
   Moderate respiratory distress
   Lungs exp wheezes
   Rrr
   Abd benign
   No edema
   Labs / Radiology
   11.5 g/dL
   175 K/uL
   220 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   16 mg/dL
   104 mEq/L
   138 mEq/L
   35.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
                             [**2149-3-29**]  04:11 AM
                             [**2149-3-29**]  04:43 AM
                             [**2149-3-29**]  05:47 AM
   WBC
   7.5
   7.3
   8.9
   Hct
   35.3
   32.1
   35.6
   Plt
   146
   142
   175
   Cr
   1.3
   1.2
   1.2
   TropT
   0.03
   TCO2
   25
   30
   29
   Glucose
   163
   213
   220
   Other labs: PT / PTT / INR:16.5/28.6/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.6
   mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - worsening bilateral infiltrates
   Assessment and Plan
 Respiratory distress
 related to OSA, new infiltrates which are
   hopefully flash edema due to diastolic CHF rather than ARDS due to
   sepsis
 will increase BIPAP, continue to diurese, if further clinical
   worsening will broaden antibiotics
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME) BIPAP as above
 URINARY TRACT INFECTION (UTI), bacteremia
 on cipro
   ICU Care
   Nutrition:    NPO
   Glycemic Control:  on insulin
   Lines:
   20 Gauge - [**2149-3-29**] 04:21 AM
   Prophylaxis:
   DVT: boots, sc heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:  37

2149-03-30 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Put on BiPAP 15/8, could not tolerate ABG on BiPAP 7.32/60/75
   - cont lasix 40iv x2 doses, goal net neg 2L
   - BNP 2126
   - Alb/Ipra MDI
   - started seroquel 100mg [**Hospital1 **]
   - Vanc and Zosyn were discontinued and Cipro was started
   Patient reports feeling better and denies repiratory distress or chest
   pain. Denies wheezing. Denies fevers or chills. Has a strong desire to
   eat today.
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2149-3-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-28**] 09:08 AM
   Ciprofloxacin - [**2149-3-30**] 03:55 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2149-3-29**] 08:00 AM
   Heparin Sodium - [**2149-3-29**] 11:29 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 75 (75 - 99) bpm
   BP: 90/53(62) {87/40(55) - 120/74(87)} mmHg
   RR: 28 (25 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    577 mL
                                                                    271 mL
   PO:
   TF:
   IVF:
                                                                    577 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    730 mL
   Urine:
                                                                  1,800 mL
                                                                    730 mL
   Balance:
                                                                 -1,223 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (212 - 571) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 36
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.32/60/75/27/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK:  Large circumference, inability to see level of JVP
   PULM: Tachypneic, expiratory wheezes diffusely, crackles heard at left
   upper anterior lung field and do not clear with cough
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, distended, tympanitic
   EXT: Trace bilateral LE edema
   Labs / Radiology
   174 K/uL
   10.2 g/dL
   226 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   20 mg/dL
   103 mEq/L
   140 mEq/L
   31.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
                             [**2149-3-29**]  04:11 AM
                             [**2149-3-29**]  04:43 AM
                             [**2149-3-29**]  05:47 AM
                             [**2149-3-29**]  12:43 PM
                             [**2149-3-29**]  05:13 PM
                             [**2149-3-30**]  04:39 AM
   WBC
   7.5
   7.3
   8.9
   6.9
   Hct
   35.3
   32.1
   35.6
   31.9
   Plt
   146
   142
   175
   174
   Cr
   1.3
   1.2
   1.2
   1.0
   1.1
   TropT
   0.03
   TCO2
   25
   30
   29
   32
   Glucose
   163
   213
   220
   208
   226
   Other labs: PT / PTT / INR:16.6/29.4/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5
   mg/dL, PO4:2.7 mg/dL\
   MICRO:
   [**2149-3-26**] Blood cx x2: E. coli, pan-sensitive
   [**2149-3-26**] Urine cx: E. coli, pan-sensitive
   [**2149-3-27**] Legionella urinary antigen: NEGATIVE
   Assessment and Plan
   66 year old female with mental retardation, asthma, obstructive sleep
   apnea on home CPAP, diastolic CHF, and bipolar disorder initially
   admitted with urosepsis now transferred back to the ICU for worsening
   respiratory distress and
   # Respiratory Distress:
   Most likely multifactorial.  Patient with known obstructive sleep
   apnea, asthma, obesity hypoventilation syndrome as well as diastolic
   heart failure.  CXR now with worsening interstitial edema and ABG with
   new hypercarbia on [**3-28**] prior to transfer back to MICU. Has
   intermittently been on BiPAP. Wheezes diffusely. History of steroid
   psychosis.
   - continue standing albuterol Q4H and Q2H:PRN
   - continue standing ipratropium
   - Discontinue ciprofloxacin and restart Vancomycin and Zosyn for
   empiric pneumonia coverage
   - continue lasix with I/O goal even to 500 mL negative today
   # Sepsis of urinary origin:
   Grew e. coli pan-sensitive from both the blood and the urine.  Has been
   hemodynamically stable for the past 48 hours.
   - Discontinue ciprofloxacin and restart Zosyn (indicated for presumed
   pulmonary infection)
   # Altered Mental Status:
   Resolved.  Likely altered in the setting of infection.
   - continue home psychiatric medications including cogentin, haldol,
   andseroqeul
   - monitor closely for worsening in the setting of worsening hypercarbia
   # Acute Renal Failure:
   Creatinine now down to 1.1 (baseline 0.9).
   - Monitor creatinine with diuresis
   - Avoid nephrotoxins, renally dose meds
   # Hypertension:
   Blood pressures stable.
   - continue lasix for diuresis
   # Diastolic CHF, mild aortic valve stenosis:
   Currently appears volume overloaded in CXR.
   - I/O goal even to negative 500 mL
   #Bipolar disorder:
   Stable.
   - Cont. lithium, haldol, congentin, seroquel
   ICU Care
   Nutrition: Regular diet when off BiPAP
   Glycemic Control:  Insulin sliding scale and glargine uptitrated as
   needed based on sliding scale needs
   Lines:
   20 Gauge - [**2149-3-29**] 04:21 AM
   Prophylaxis:
   DVT: Subcutaneous heparin
   Stress ulcer: No prophylaxis needed at this time
   Communication:  HCP [**Name2 (NI) **] [**First Name8 (NamePattern2) 8652**] [**Name (NI) 8653**] [**Telephone/Fax (1) 8654**].
   Code status: Full code
   Disposition: ICU care for now

2149-03-30 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   BIPAP overnight
   Hungry this morning
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2149-3-28**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-28**] 09:08 AM
   Ciprofloxacin - [**2149-3-30**] 03:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2149-3-30**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-30**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 86 (75 - 99) bpm
   BP: 132/69(82) {87/40(55) - 132/69(82)} mmHg
   RR: 33 (25 - 40) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    577 mL
                                                                    282 mL
   PO:
             TF:
   IVF:
                                                                    577 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    730 mL
   Urine:
                                                                  1,800 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,223 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (212 - 571) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 36
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   SpO2: 90%
   ABG: 7.32/60/75/27/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   174 K/uL
   226 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   20 mg/dL
   103 mEq/L
   140 mEq/L
   31.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
                             [**2149-3-29**]  04:11 AM
                             [**2149-3-29**]  04:43 AM
                             [**2149-3-29**]  05:47 AM
                             [**2149-3-29**]  12:43 PM
                             [**2149-3-29**]  05:13 PM
                             [**2149-3-30**]  04:39 AM
   WBC
   7.5
   7.3
   8.9
   6.9
   Hct
   35.3
   32.1
   35.6
   31.9
   Plt
   146
   142
   175
   174
   Cr
   1.3
   1.2
   1.2
   1.0
   1.1
   TropT
   0.03
   TCO2
   25
   30
   29
   32
   Glucose
   163
   213
   220
   208
   226
   Other labs: PT / PTT / INR:16.6/29.4/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 Respiratory distress
 related to OSA, new infiltrates which are
   hopefully flash edema due to diastolic CHF rather than ARDS due to
   sepsis
 will increase BIPAP, continue to diurese, if further clinical
   worsening will broaden antibiotics
 OBESITY HYPOVENTILATION (PICKWICKIAN SYNDROME) BIPAP as above
 URINARY TRACT INFECTION (UTI), bacteremia
 on cipro
   ICU Care
   Nutrition: will let her eat
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-29**] 04:21 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2149-03-31 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient somnolent in afternoon and on BiPAP, following PICC access
   VBG showed 7.33/66
   - PICC line placed and pulled back to midline, IR order placed to
   reposition PICC
   - Patient with tachypnea and restlessness at approximately 2100, was
   wearing BiPAP, VBG showed 7.30/70, sats were appropriate, patient
   reported no dyspnea, was given night dose of quetiapine
   - Was called at approximately 0130 that patient's VBG off of BiPAP had
   worsened and was 7.24/81. Plan was made to put patient back on BiPAP
   and recheck VBG.
   - In AM of [**3-31**], VBG improved to 7.31/71 after night of BiPAP
 PICC LINE - START [**2149-3-30**] 01:00 PM
 NON-INVASIVE VENTILATION - START [**2149-3-30**] 02:30 PM
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-3-28**] 09:08 AM
   Ciprofloxacin - [**2149-3-30**] 03:55 AM
   Vancomycin - [**2149-3-30**] 11:09 AM
   Piperacillin - [**2149-3-31**] 05:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2149-3-31**] 12:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-31**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 80 (73 - 100) bpm
   BP: 177/91(112) {116/60(72) - 177/91(112)} mmHg
   RR: 27 (20 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,341 mL
                                                                    272 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    841 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    450 mL
   Urine:
                                                                  1,700 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -359 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 288 (288 - 536) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 36
   PEEP: 8 cmH2O
   FiO2: 30%
   PIP: 24 cmH2O
   SpO2: 92%
   ABG: ///32/
   Ve: 12.4 L/min
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK:  Large circumference, inability to see level of JVP
   PULM: Tachypneic, expiratory wheezes and crackles diffusely
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, distended, tympanitic
   EXT: Trace bilateral LE edema
   Labs / Radiology
   209 K/uL
   10.0 g/dL
   201 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   22 mg/dL
   100 mEq/L
   139 mEq/L
   32.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
                             [**2149-3-29**]  04:11 AM
                             [**2149-3-29**]  04:43 AM
                             [**2149-3-29**]  05:47 AM
                             [**2149-3-29**]  12:43 PM
                             [**2149-3-29**]  05:13 PM
                             [**2149-3-30**]  04:39 AM
                             [**2149-3-31**]  02:46 AM
   WBC
   7.5
   7.3
   8.9
   6.9
   8.3
   Hct
   35.3
   32.1
   35.6
   31.9
   32.3
   Plt
   146
   142
   175
   174
   209
   Cr
   1.3
   1.2
   1.2
   1.0
   1.1
   1.0
   TropT
   0.03
   TCO2
   25
   30
   29
   32
   Glucose
   163
   213
   220
   [**Telephone/Fax (3) 8709**]
   Other labs: PT / PTT / INR:16.6/29.4/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.6
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   66 year old female with mental retardation, asthma, obstructive sleep
   apnea on home CPAP, diastolic CHF, and bipolar disorder initially
   admitted with urosepsis now transferred back to the ICU for worsening
   respiratory distress and
   # Respiratory Distress:
   Most likely multifactorial.  Patient with known obstructive sleep
   apnea, asthma, obesity hypoventilation syndrome as well as diastolic
   heart failure.  CXR now with worsening interstitial edema and ABG with
   new hypercarbia on [**3-28**] prior to transfer back to MICU. Has
   intermittently been on BiPAP. Wheezes diffusely. History of steroid
   psychosis.
   - continue standing albuterol and ipratropium
   - cont Vancomycin and Zosyn for empiric pneumonia coverage
   - continue lasix with I/O goal -0.5 to -1 L today
   - as patient is visibly tiring with increasing pCO2, would like to try
   steroids to attempt to avoid intubation. The patient does have history
   of steroid psychosis, however at this point, her respiratory status is
   declining and she is still very wheezy on clinical exam.
   # Sepsis of urinary origin:
   Grew e. coli pan-sensitive from both the blood and the urine.  Has been
   hemodynamically stable for the past 48 hours.
   - cont Zosyn (indicated for presumed pulmonary infection)
   # Altered Mental Status:
   Likely altered in the setting of infection.
   - continue home psychiatric medications including cogentin, haldol, and
   seroqeul
   - monitor closely for worsening in the setting of worsening hypercarbia
   - will try to use smaller dosing of seroquel to avoid oversedation
   # Acute Renal Failure:
   Creatinine now down to 1.0 (baseline 0.9).
   - Monitor creatinine with diuresis
   - Avoid nephrotoxins, renally dose meds
   # Hypertension:
   Blood pressures stable.
   - continue lasix for diuresis
   # Diastolic CHF, mild aortic valve stenosis:
   Currently appears volume overloaded in CXR.
   - I/O goal negative 05. to 1 L today
   #Bipolar disorder:
   Stable.
   - Cont. lithium, haldol, congentin, seroquel
   Plan for a-line today for seriel ABG
s and BP monitoring.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-29**] 04:21 AM
   PICC Line - [**2149-3-30**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-03-31 13:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo women with mental retardation, obesity hypoventilation, OSA, on
   home bipap. Originally admitted with urosepsis went to floor and
   returned to ICU for respiratory failure.
   24 Hour Events:
 PICC LINE - START [**2149-3-30**] 01:00 PM
 NON-INVASIVE VENTILATION - START [**2149-3-30**] 02:30 PM
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-3-30**] 03:55 AM
   Piperacillin - [**2149-3-31**] 05:39 AM
   Vancomycin - [**2149-3-31**] 08:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2149-3-31**] 08:00 AM
   Furosemide (Lasix) - [**2149-3-31**] 08:00 AM
   Other medications:
   asa
   SSI
   haldol
   lithium
   topomax
   bentropine
   folate
   advair
   singulair
   albuterol
   atrovent
   seroquel
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-31**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 66 (66 - 100) bpm
   BP: 104/61(71) {96/59(68) - 177/91(112)} mmHg
   RR: 34 (20 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,341 mL
                                                                    709 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    841 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    960 mL
   Urine:
                                                                  1,700 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -359 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 316 (288 - 536) mL
   PS : 15 cmH2O
   RR (Set): 0
   RR (Spontaneous): 38
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, distressed
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, mumbles
   word
   Labs / Radiology
   10.0 g/dL
   209 K/uL
   201 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   22 mg/dL
   100 mEq/L
   139 mEq/L
   32.3 %
   8.3 K/uL
                             [**2149-3-27**]  12:54 AM
                             [**2149-3-27**]  03:04 AM
                             [**2149-3-28**]  05:30 AM
                             [**2149-3-29**]  04:11 AM
                             [**2149-3-29**]  04:43 AM
                             [**2149-3-29**]  05:47 AM
                             [**2149-3-29**]  12:43 PM
                             [**2149-3-29**]  05:13 PM
                             [**2149-3-30**]  04:39 AM
                             [**2149-3-31**]  02:46 AM
   WBC
   7.5
   7.3
   8.9
   6.9
   8.3
   Hct
   35.3
   32.1
   35.6
   31.9
   32.3
   Plt
   146
   142
   175
   174
   209
   Cr
   1.3
   1.2
   1.2
   1.0
   1.1
   1.0
   TropT
   0.03
   TCO2
   25
   30
   29
   32
   Glucose
   163
   213
   220
   [**Telephone/Fax (3) 8709**]
   Other labs: PT / PTT / INR:16.6/29.4/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.6
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Respiratory failure:  Underlying Asthma and OSA, diastolic heart
   failure.  Getting treated for pna with vanco/zosyn.  CXR is worse
   compared to admission, and has not had fevers to suggest PNA.
                     -  continue diuresis
                    -   will try steroids for her asthma
   E. coli septicemia from UTI:  Seems better controlled
   bipolar disorder:  on cogentin and haldol, will try to lower seroquel
   dose to decrease sedation
   HTN:  better controled
   PIC Line:  Leave as midline.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-29**] 04:21 AM
   PICC Line - [**2149-3-30**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Had conversation with [**Doctor First Name **], patient
s sister.  Explained to her
   that Ms. [**Known lastname 8692**]
s condition has deteriorated with worsening
   hypercapnic respiratory failure despite bipap and antibiotics.  She is
   in danger of requiring intubation and given her poor mental status, it
   would be worthwhile trying steroids to see if intubation can be
   avoided.  Given that she has a life threatening condition, we feel that
   the risk of steroids and potential psychomotor side effects of these
   steroids are outweighed by the potential benefits to avoid intubation.
   She said that she understood and agreed with treatment plan.
   Review of medical records shows that patient had been treated with
   steroids in [**2146**] and [**2145**] without evident side effects in medical
   records.
   CC 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2149-3-31**] 15:23 ------

2149-04-01 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Somnolent in morning, decreased Seroquel dose to 50mg [**Hospital1 **]
   - Continuuing to have desats and hypercarbia, continued to be wheezy
   and was started on 80mg methylprednisolone q8h
   - A-line placed
   - Became combative and began to have high BP and desats with extreme
   anxiety. Haldol 2-5mg IV PRN was added. Also, Seroquel had initially
   been reduced but was started back at 50mg TID. She had previously been
   written for 100mg PO TID, 350mg PO QHS, and 100mg PO PRN agitation.
   - After steroids, had improved ABG (7.32/64/68), however ABG's got
   worse overnight and she was last 7.25/80/70 on 18/8 BiPAP, and was
   intubated.
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-3-30**] 03:55 AM
   Piperacillin - [**2149-3-31**] 05:39 AM
   Vancomycin - [**2149-3-31**] 08:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-4-1**] 06:39 AM
   Infusions:
   Propofol - 85 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2149-3-31**] 08:00 AM
   Heparin Sodium - [**2149-3-31**] 04:00 PM
   Haloperidol (Haldol) - [**2149-3-31**] 05:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 76 (66 - 103) bpm
   BP: 108/59(75) {108/59(75) - 184/89(119)} mmHg
   RR: 17 (17 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.6 kg (admission): 118.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,067 mL
                                                                    392 mL
   PO:
                                                                     45 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    842 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  1,667 mL
                                                                    530 mL
   Urine:
                                                                  1,667 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 362 (265 - 362) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.24/74/123/32/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 246
   Physical Examination
   GEN: intubated, sedated
   HEENT: PERRL, oral mucosa slightly dry
   NECK:  Large circumference, inability to see level of JVP
   PULM: mild expiratory wheezes, improved from yesterday
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: Obese, BS+, soft, distended
   EXT: Trace bilateral LE edema
   NEURO: Intubated, non-responsive
   Labs / Radiology
   279 K/uL
   10.0 g/dL
   196 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   142 mEq/L
   33.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2149-3-31**]  05:56 PM
                             [**2149-3-31**]  09:04 PM
                             [**2149-3-31**]  11:57 PM
                             [**2149-4-1**]  12:57 AM
                             [**2149-4-1**]  03:20 AM
                             [**2149-4-1**]  03:32 AM
                             [**2149-4-1**]  04:26 AM
                             [**2149-4-1**]  05:26 AM
                             [**2149-4-1**]  06:09 AM
                             [**2149-4-1**]  06:44 AM
   WBC
   9.4
   Hct
   33.1
   Plt
   279
   Cr
   0.9
   TCO2
   34
   32
   31
   34
   39
   37
   34
   34
   33
   Glucose
   196
   Other labs: PT / PTT / INR:16.6/29.4/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   66 year old female with mental retardation, asthma, obstructive sleep
   apnea on home CPAP, diastolic CHF, and bipolar disorder initially
   admitted with urosepsis now transferred back to the ICU for worsening
   respiratory distress and intubated on [**3-31**].
   # Respiratory Distress:
   Most likely multifactorial.  Patient with known obstructive sleep
   apnea, asthma, obesity hypoventilation syndrome as well as diastolic
   heart failure.  CXR now with worsening interstitial edema and ABG with
   new hypercarbia on [**3-28**] prior to transfer back to MICU. Had
   intermittently been on BiPAP. Continued to wheeze diffusely, with
   steroids started on [**3-31**]. Continued to have worsening ABG
s overnight
   and was eventually intubated due to hypercarbia on [**4-1**].
   - cont to adjust vent settings for new intubation
   - continue standing albuterol and ipratropium
   - cont Vancomycin and Zosyn for empiric pneumonia coverage
   - continue lasix with I/O goal even to -0.5 L
   - as patient was visibly tiring with increasing pCO2, would like to
   cont steroids. The patient does have history of steroid psychosis,
   however at this point, her respiratory status is a more important
   issue.
   # Sepsis of urinary origin:
   Grew e. coli pan-sensitive from both the blood and the urine.  Has been
   hemodynamically stable for the past 48 hours.
   - cont Zosyn (indicated for presumed pulmonary infection)
   # Altered Mental Status:
   Likely altered in the setting of infection.
   - currently NPO after intubation, however, plan to ultimately continue
   home psychiatric medications including lithium, cogentin, haldol, and
   will hold seroqeul. will try to use smaller dosing of seroquel if later
   needed after extubation to avoid oversedation
   # Acute Renal Failure:
   Creatinine now down to 0.9 (baseline 0.9).
   - Monitor creatinine with diuresis
   - Avoid nephrotoxins, renally dose meds
   # Hypertension:
   Blood pressures stable.
   - continue lasix for diuresis
   # Diastolic CHF, mild aortic valve stenosis:
   Currently appears volume overloaded in CXR.
   - I/O goal even to -0.5 today
   #Bipolar disorder:
   Stable.
   - Plan as above regarding home meds (lithium, haldol, congentin,
   seroquel)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-3-30**] 01:00 PM
   Arterial Line - [**2149-3-31**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-04-01 10:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo with morbid obesity, diastolic CHF, OSA/obesity hypoventilation.
   Admitted for urosepsis, worsening last night with worsening respiratory
   acidosis.  Had been having intermittent agitation, and pCO2 was getting
   worse.  At 5:00AM abg 7.25/80/70, barely arousable and was intubated.
   24 Hour Events:
 ARTERIAL LINE - START [**2149-3-31**] 04:00 PM
 NON-INVASIVE VENTILATION - STOP [**2149-4-1**] 05:00 AM
 INVASIVE VENTILATION - START [**2149-4-1**] 05:00 AM
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-3-30**] 03:55 AM
   Piperacillin - [**2149-3-31**] 05:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-4-1**] 06:39 AM
   Vancomycin - [**2149-4-1**] 08:32 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2149-3-31**] 04:00 PM
   Haloperidol (Haldol) - [**2149-3-31**] 05:54 PM
   Heparin Sodium (Prophylaxis) - [**2149-4-1**] 08:33 AM
   Other medications:
   asa
   lasix
   haldol 1mg tid
   lithium
   topomax
   bentropine
   folate
   advair
   singulair
   seroquel
   medrol 80mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-1**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 52 (52 - 103) bpm
   BP: 114/61(78) {97/55(67) - 184/89(119)} mmHg
   RR: 24 (17 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 111.6 kg (admission): 118.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,067 mL
                                                                    860 mL
   PO:
                                                                     45 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    842 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                  1,667 mL
                                                                    780 mL
   Urine:
                                                                  1,667 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 362 (265 - 362) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/55/96.[**Numeric Identifier 244**]/32/3
   Ve: 11 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   279 K/uL
   187 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   142 mEq/L
   33.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2149-3-31**]  09:04 PM
                             [**2149-3-31**]  11:57 PM
                             [**2149-4-1**]  12:57 AM
                             [**2149-4-1**]  03:20 AM
                             [**2149-4-1**]  03:32 AM
                             [**2149-4-1**]  04:26 AM
                             [**2149-4-1**]  05:26 AM
                             [**2149-4-1**]  06:09 AM
                             [**2149-4-1**]  06:44 AM
                             [**2149-4-1**]  08:18 AM
   WBC
   9.4
   Hct
   33.1
   Plt
   279
   Cr
   0.9
   TCO2
   32
   31
   34
   39
   37
   34
   34
   33
   32
   Glucose
   196
   187
   Other labs: PT / PTT / INR:16.6/29.4/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7
   mg/dL, PO4:3.6 mg/dL
   Imaging: CXR:  new LUL infiltrate, other infiltrates improved
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Multifactorial due to
   obesity hypoventilation, diastolic HF, asthma and now with ?PNA with
   infiltrate although WBC and afebrile.
   Will try and keep this a short intubation and attempt switch over to
   PSV.
   Acute on chronic diastolic CHF:  continue lasxi for diuresis
   asthma:  continue steroids and nebs
   sepsis:  e. coli should be covered by zosyn.
   Delirium:  largely due to critical illness.  Will continue lithium and
   Haldol and hold seroquel for now as it tends to be more
   Sedating.,
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-3-30**] 01:00 PM
   Arterial Line - [**2149-3-31**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2149-04-02 13:14:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo women with OSH, obesity-hypoventilation, origianally admitted
   with urosepsis, complicated by delirium and respriatory failure
   24 Hour Events:
 ANGIOGRAPHY - At [**2149-4-1**] 12:46 PM
   Double Lumen PICC placed in right AC under angio.  Pt left floor at
   1015 and returned at 1205.
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin - [**2149-3-31**] 05:39 AM
   Vancomycin - [**2149-4-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-4-2**] 11:24 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-2**] 08:00 AM
   Furosemide (Lasix) - [**2149-4-2**] 08:45 AM
   Other medications:
   hep s/q
   lasix
   asa
   SSI
   haldol
   lithium
   cogentin
   folate
   singulaire
   albuterol
   atrovent
   medrol 80mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-2**] 01:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 48 (42 - 60) bpm
   BP: 117/61(78) {104/51(66) - 135/69(89)} mmHg
   RR: 24 (8 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 109.6 kg (admission): 118.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,739 mL
                                                                  1,394 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  1,499 mL
                                                                  1,394 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                  1,045 mL
   Urine:
                                                                  1,665 mL
                                                                    745 mL
   NG:
                                                                    100 mL
                                                                    200 mL
   Stool:
   100 mL
   Drains:
   Balance:
                                                                    -26 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/46/86/30/8
   Ve: 11.2 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   373 K/uL
   205 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.9 mEq/L
   32 mg/dL
   104 mEq/L
   143 mEq/L
   31.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2149-4-1**]  03:20 AM
                             [**2149-4-1**]  03:32 AM
                             [**2149-4-1**]  04:26 AM
                             [**2149-4-1**]  05:26 AM
                             [**2149-4-1**]  06:09 AM
                             [**2149-4-1**]  06:44 AM
                             [**2149-4-1**]  08:18 AM
                             [**2149-4-1**]  04:00 PM
                             [**2149-4-2**]  02:40 AM
                             [**2149-4-2**]  03:06 AM
   WBC
   9.4
   9.7
   Hct
   33.1
   31.3
   Plt
   279
   373
   Cr
   0.9
   1.1
   TCO2
   39
   37
   34
   34
   33
   32
   34
   Glucose
   196
   187
   254
   205
   Other labs: PT / PTT / INR:16.7/27.2/1.5, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:83.3 %, Lymph:13.1 %,
   Mono:3.4 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:9.0 mg/dL, Mg++:2.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Will need to lighten
   sedation.  Is blowing down CO2 too much so will decrease to RR.
   Will try PSV once more awake.
   Haldol for agitation
   LLL PNA:  Continue vanco and zosyn
   Asthma:  Wean steroids to Prednisone 60mg
   start TFs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-3-30**] 01:00 PM
   Arterial Line - [**2149-3-31**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2149-04-03 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo women with MR, OSA, obesity-hypovent, respiratory failure.
   Switched over yesterday to PSV, and did well
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-4-3**] 06:06 AM
   Vancomycin - [**2149-4-3**] 08:19 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-3**] 08:00 AM
   Furosemide (Lasix) - [**2149-4-3**] 08:00 AM
   Other medications:
   singulaire
   folate
   topomax
   asa
   lasiz
   prednisone 60mg
   cogentin
   lithiium
   haldol
   albuterol
   insulin s/q
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-3**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 53 (44 - 69) bpm
   BP: 107/58(73) {79/47(62) - 149/77(102)} mmHg
   RR: 26 (22 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 109.6 kg (admission): 118.2 kg
   Height: 62 Inch
             Total In:
                                                                  2,313 mL
                                                                  1,246 mL
   PO:
             TF:
                                                                    125 mL
                                                                    367 mL
   IVF:
                                                                  1,948 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                  1,770 mL
   Urine:
                                                                  2,150 mL
                                                                  1,770 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -137 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 361 (309 - 397) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.37/61/106/29/8 on PSV 10/8
   Ve: 12.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Unresponsive, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   460 K/uL
   204 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   34 mg/dL
   106 mEq/L
   145 mEq/L
   32.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2149-4-1**]  08:18 AM
                             [**2149-4-1**]  04:00 PM
                             [**2149-4-2**]  02:40 AM
                             [**2149-4-2**]  03:06 AM
                             [**2149-4-2**]  07:00 PM
                             [**2149-4-2**]  10:00 PM
                             [**2149-4-3**]  01:15 AM
                             [**2149-4-3**]  01:25 AM
                             [**2149-4-3**]  04:00 AM
                             [**2149-4-3**]  09:30 AM
   WBC
   9.7
   11.0
   Hct
   31.3
   32.6
   Plt
   373
   460
   Cr
   1.1
   1.2
   TCO2
   32
   34
   36
   39
   37
   Glucose
   187
   254
   205
   159
   158
   142
   141
   152
   204
   Other labs: PT / PTT / INR:15.6/28.0/1.4, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:71.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   Microbiology: C. diff neg from [**3-31**]
   Assessment and Plan
   Respiratory failure:  OSA/obesity hypoventilation with HAP.  Looks good
   on PSV.  Will try SBT with aim towards extubation.
   acute on chronic diastolic HF:  continue slow diuresis
   UTI with sepisis:  has completed course of therapy for this
   asthma:  on steroids
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-4-2**] 07:28 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2149-3-30**] 01:00 PM
   Arterial Line - [**2149-3-31**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2149-04-04 11:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo women with OSA/obesity hypoventilation, respiratory failure.
   Extubated and doing well.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2149-4-3**] 11:30 AM
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-4-4**] 06:00 AM
   Vancomycin - [**2149-4-4**] 09:14 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2149-4-4**] 04:37 AM
   Heparin Sodium (Prophylaxis) - [**2149-4-4**] 08:14 AM
   Other medications:
   Prednisone 40mg
   haldol 5mg x 2
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: No(t) Myalgias
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-4-4**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 67 (58 - 71) bpm
   BP: 147/68(93) {119/49(68) - 155/74(99)} mmHg
   RR: 33 (15 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 118.2 kg
   Height: 62 Inch
             Total In:
                                                                  2,501 mL
                                                                  1,245 mL
   PO:
             TF:
                                                                  1,235 mL
                                                                    436 mL
   IVF:
                                                                  1,026 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    950 mL
   Urine:
                                                                  2,950 mL
                                                                    550 mL
   NG:
   Stool:
   400 mL
   Drains:
   Balance:
                                                                   -449 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.39/62/69/36/9
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Overweight / Obese, tachypneic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : )
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, sleepy
   Labs / Radiology
   10.4 g/dL
   421 K/uL
   161 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.4 mEq/L
   26 mg/dL
   107 mEq/L
   149 mEq/L
   34.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2149-4-2**]  10:00 PM
                             [**2149-4-3**]  01:15 AM
                             [**2149-4-3**]  01:25 AM
                             [**2149-4-3**]  04:00 AM
                             [**2149-4-3**]  09:30 AM
                             [**2149-4-3**]  11:17 AM
                             [**2149-4-3**]  01:49 PM
                             [**2149-4-3**]  04:00 PM
                             [**2149-4-4**]  02:42 AM
                             [**2149-4-4**]  08:23 AM
   WBC
   11.0
   9.4
   Hct
   32.6
   34.0
   Plt
   460
   421
   Cr
   1.2
   0.8
   TCO2
   39
   37
   31
   37
   39
   Glucose
   158
   142
   141
   152
   204
   259
   161
   Other labs: PT / PTT / INR:15.2/25.2/1.3, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:76.0 %, Band:0.0 %,
   Lymph:19.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.8 mg/dL, PO4:3.9 mg/dL
   ECG: QTc 430
   Assessment and Plan
   Respiratory failure:  Much improved.  Needs bipap at night, but not
   tolerating full mask. Will try nasal bipap
   PNA:  complete 8 day course of vanco/zosyn
   agitation:  no seroquel, haldol standing and prn, qtc is acceptable
   asthma:  steroid taper
   hypernatremia:  can give po water
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2149-4-3**] 04:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2149-3-30**] 01:00 PM
   Arterial Line - [**2149-3-31**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2149-04-05 12:01:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - back on regular diet
   -vanc dosing adjusted
   -bipap overnight
   -no complaints other than hungry
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Metformin
   Nausea/Vomiting
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-4-5**] 12:24 AM
   Vancomycin - [**2149-4-5**] 08:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-5**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.2
   HR: 66 (51 - 74) bpm
   BP: 155/80(104) {97/59(77) - 163/87(115)} mmHg
   RR: 24 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 118.2 kg
   Height: 62 Inch
             Total In:
                                                                  3,785 mL
                                                                  1,018 mL
   PO:
                                                                  1,600 mL
                                                                    600 mL
   TF:
                                                                    844 mL
   IVF:
                                                                    941 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                  1,680 mL
   Urine:
                                                                  2,940 mL
                                                                  1,580 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                    245 mL
                                                                   -662 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/50/106/33/6
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, month/year, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   377 K/uL
   191 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.6 mEq/L
   20 mg/dL
   100 mEq/L
   139 mEq/L
   32.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2149-4-3**]  09:30 AM
                             [**2149-4-3**]  11:17 AM
                             [**2149-4-3**]  01:49 PM
                             [**2149-4-3**]  04:00 PM
                             [**2149-4-4**]  02:42 AM
                             [**2149-4-4**]  08:23 AM
                             [**2149-4-4**]  04:04 PM
                             [**2149-4-5**]  02:43 AM
                             [**2149-4-5**]  02:56 AM
                             [**2149-4-5**]  04:04 AM
   WBC
   9.4
   9.6
   Hct
   34.0
   32.1
   Plt
   421
   377
   Cr
   0.8
   0.9
   0.8
   TCO2
   37
   31
   37
   39
   39
   34
   Glucose
   [**Telephone/Fax (3) 8739**]55
   191
   Other labs: PT / PTT / INR:15.2/25.2/1.3, CK / CKMB /
   Troponin-T:101/3/0.03, Differential-Neuts:82.0 %, Band:2.0 %, Lymph:7.0
   %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Respiratory failure:
   -Much improved
   -OHS - nocturnal bipap
   PNA:
   -vanco/zosyn
   Agitation:
   -avoid seroquel
   -haldol standing and prn
    UTI:
   - e. coli
   - cont zosyn
   Sepsis:
   resolved
   asthma:
   -steroid taper
    hypernatremia:
    can give po water
   diastolic heart failure
   -restarting lasix
   DM
   -glargine
   Called out to floor.
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2149-3-30**] 01:00 PM
   Arterial Line - [**2149-3-31**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: